US05663175
Preparation of 9-{[1(R)-acetoxymethyl-2(S)-cyclohexyl]methyl}guanine (XIII)
A suspension of 9-{[1(R)-acetoxymethyl-2(S)-cyclohex-4-enyl]methyl}2-amino-6-benzyloxypurine (0.75 mmol), ethanol (5 mL) and a catalytic amount of 10% Pd/C was stirred under a hydrogen balloon for 3 hours. The reaction was filtered and concentrated to yield the desired compound. 1HNMR (500 mHz, d6DMSO): 10.80 ppm (bs, 1H); 7.65 (s, 1H); 6.48 (s, 2H); 4.15-3.88 (m, 4H); 2.23 (bs, 1H); 2.01 (s, 3H); 1.92 (m, 1H); 1.68-1.15 (m, 8H).

reactant | 9-{[1(R)-acetoxymethyl-2(S)-cyclohex-4-enyl]methyl}2-amino-6-benzyloxypurine | 0.75 mmol | C(C)(=O)OC[C@H]1[C@H](CC=CC1)CN1C2=NC(=NC(=C2N=C1)OCC1=CC=CC=C1)N | C22H25N5O3
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 9-{[1(R)-acetoxymethyl-2(S)-cyclohexyl]methyl}guanine | C(C)(=O)OC[C@H]1[C@H](CCCC1)CN1C=2N=C(NC(C2N=C1)=O)N | C15H21N5O3
